US05591869
2-Benzylthiophene
27.2 g of 98.5% pure aluminium trichloride (sublimed) were suspended in 130 ml of chlorobenzene and cooled to 0° C. 28.7 g of benzoyl chloride were added dropwise while stirring and cooling over the course of 30 minutes, and the mixture was then stirred for 1 hour. Likewise at 0° C., a solution of 17.3 g of thiophene in 27 ml of chlorobenzene was added dropwise over the course of 30 minutes, and the mixture was stirred for 1 hour. Remaining hydrogen chloride was driven out by heating the mixture and stirring, finally under vacuum. The remaining solution was introduced over the course of 40 minutes into a solution of 12.7 g of dimethylamineborane in 70 ml of chlorobenzene while stirring at 70° C. The mixture was then stirred for 1 hour, cooled and discharged into a mixture of 200 g of ice and 50 g of concentrated aqueous hydrochloric acid while stirring. The aqueous phase was then separated off and extracted with chlorobenzene. The remaining organic phase was extracted by shaking with water. The organic phase and the extract from the aqueous phase were then combined, the solvent was removed therefrom by distillation, and 38.7 g of crude 2-benzylthiophene of 79.7% purity were obtained by distillation. This corresponds to 88.5% of theory. Redistillation resulted in 99.7% pure 2-benzylthiophene with a boiling point of 91° to 92° C./1.4 mbar.

reactant | aluminium trichloride | 27.2 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | benzoyl chloride | 28.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | thiophene | 17.3 g | S1C=CC=C1 | C4H4S
reactant | hydrogen chloride | Cl | ClH
reactant | hydrochloric acid | 50 g | Cl | ClH
solvent | chlorobenzene | 130 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 27 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 70 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Benzylthiophene | C(C1=CC=CC=C1)C=1SC=CC1 | C11H10S
